US05866588
A solution of (E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-acrylic acid (2.04 g, 5.9 mmol) in methanol (50 ml) was treated with concentrated HCI (10 ml) and stirred at room temperature for 6 days. The reaction was neutralised with a saturated solution of sodium hydrogen carbonate and solvent removed under reduced pressure. DCM was added to the residue and inorganic solids removed by filtration. Concentration of the filtrate under reduced pressure yielded methyl-(E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-acrylate as a pink foam (1.98 g, 93%). 1H-NMR; δ (CDCl3), 7.70 (1H, d, J=15.7 Hz), 7.57 (1H, t, J=7.7 Hz), 7.30 (1H, t, J=7.6 Hz), 7.25 (2H, d, J=8.3 Hz), 7.17 (1H, d, J=7.2 Hz), 7.10 (2H, dt, J=8.2, 1.8 Hz), 6.96 (1H, d, J=15.6 Hz), 6.93 (1H, d, J=7.9 Hz), 3.83 (3H, s), 3.65 (2H, bs), 2.85 (4H, bm), 2.41 (3H, s) and 2.04 (4H, bm).

reactant | (E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-acrylic acid | 5.9 mmol, 2.04 g | N1(CCCC1)C(/C=C/C1=CC=CC(=N1)/C=C/C(=O)O)C1=CC=C(C=C1)C | C22H24N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | methyl-(E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-acrylate | 1.98 g, 93% | COC(\C=C\C1=NC(=CC=C1)\C=C\C(N1CCCC1)C1=CC=C(C=C1)C)=O | C23H26N2O2
